US07705004B2
N2,N4-di(1H-indazol-6-yl)-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine
A mixture of 2,4-dichloro-7H-pyrrolo[2,3-d]pyrimidine (90 mg, 0.48 mmol) and 6-aminoindazole (127 mg, 0.95 mmol) in n-butyl alcohol (n-BuOH) (4 mL) was stirred at 116° C. overnight. The mixture was purified by reverse phase HPLC using a gradient of 7-50% CH3CN in water over 10 min. The title compound was recovered to give a powder (15 mg). MS 382.4 (M+H) (Compound 4-1).

reactant | 2,4-dichloro-7H-pyrrolo[2,3-d]pyrimidine | 0.48 mmol, 90 mg | ClC=1N=C(C2=C(N1)NC=C2)Cl | C6H3Cl2N3
reactant | 6-aminoindazole | 0.95 mmol, 127 mg | NC1=CC=C2C=NNC2=C1 | C7H7N3
solvent | n-butyl alcohol | 4 mL | C(CCC)O | C4H10O
product | N2,N4-di(1H-indazol-6-yl)-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine | 15 mg | N1N=CC2=CC=C(C=C12)NC=1N=C(C2=C(N1)NC=C2)NC2=CC=C1C=NNC1=C2 | C20H15N9
